US07595181B2
Repeated Use of the Immobilised Est P 1021 in Myristyl Myristate Synthesis
34.3 g myristic acid and 32.2 g myristyl alcohol were heated up to 95° C. and 4 g ground immobilised esterase as prepared in Example 13 were added. Samples of the reaction mixture were withdrawn after 1, 2, 4, 8 and 24 h for conversion determination by acid value titration. The initial activity in myristyl myristate synthesis was determined by the help of the mathematical means from example 1.2. After 24 h the reaction was stopped and the enzyme was recovered by mixing the ester with 200 g warm acetone, filtering and washing the residual enzyme with 40 g warm acetone twice. After drying the enzyme in an exsiccator over night under 20 mbar vacuum and ambient temperature, the recovered enzyme was used again in myristyl myristate synthesis in the same manner as described above and was shown to maintain its activity following the above described procedure. The procedure was repeated 10 times. The enzyme was stable throughout the entire test, in the last cycle a relative activity of approx. 95% was found which is within the detection limits. The results are shown in Table 14.

reactant | myristic acid | 34.3 g | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | myristyl alcohol | 32.2 g | C(CCCCCCCCCCCCC)O | C14H30O
product | Myristyl Myristate | C(CCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCCC | C28H56O2
